US07718693B2
Methyl 5-oxo-1-phenylprolinate (0.054 g, 0.25 mmol) was combined with 2M aqueous sodium hydroxide (0.160 ml, 0.32 mmol) in methanol (1 ml) and stirred overnight at room temperature. The solvent was then evaporated and the residue taken up in ethyl acetate and washed with 2M aqueous hydrogen chloride. The aqueous layer was separated and washed twice more with ethyl acetate and then the combined ethyl acetate layers were dried using a phase separator and evaporated to give 5-oxo-1-phenyl-proline (0.047 g) as a clear oil.

reactant | Methyl 5-oxo-1-phenylprolinate | 0.25 mmol, 0.054 g | O=C1CC[C@H](N1C1=CC=CC=C1)C(=O)OC | C12H13NO3
reactant | sodium hydroxide | 0.32 mmol, 2M, 0.160 ml | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 5-oxo-1-phenyl-proline | 0.047 g | O=C1CC[C@H](N1C1=CC=CC=C1)C(=O)O | C11H11NO3
